US04943616
2,5-dimethyl-2,5-di(t-butyl peroxy)hexane;
di(t-butyl) peroxide, 2,5-dimethyl-2,5-di(t-butylperoxy)hexyne-3;

reactant | di(t-butyl) peroxide | C(C)(C)(C)OOC(C)(C)C | C8H18O2
reactant | 2,5-dimethyl-2,5-di(t-butylperoxy)hexyne-3 | CC(C)(C)OOC(C)(C)C#CC(C)(C)OOC(C)(C)C | C16H30O4
product | 2,5-dimethyl-2,5-di(t-butyl peroxy)hexane | CC(C)(CCC(C)(OOC(C)(C)C)C)OOC(C)(C)C | C16H34O4
